US04699984
A mixture containing 98 g of ethyl 1-ethyl-6-fluoro-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylate, 50 ml of 35% aqueous sodium hydroxide solution, 500 ml of water and 100 ml of methanol was refluxed with stirring for 90 minutes and the resulting brown solution was acidified with acetic acid whereupon a light yellow precipitate separated. The mixture was allowed to stand at room temperature for about 2 hours and the precipitate was collected, washed successively with water and ethanol and then dried at 90°-95° C. to yield 86.8 g (95%) of 1-ethyl-6-fluoro-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylic acid, m.p. >310° C.

reactant | ethyl 1-ethyl-6-fluoro-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylate | 98 g | C(C)N1C=C(C(C2=CC(=C(C=C12)C1=CC(=NC(=C1)C)C)F)=O)C(=O)OCC | C21H21FN2O3
reactant | sodium hydroxide | 50 ml | [OH-].[Na+]
reactant | water | 500 ml | O | H2O
reactant | methanol | 100 ml | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-ethyl-6-fluoro-1,4-dihydro-7-(2,6-dimethyl-4-pyridinyl)-4-oxo-3-quinolinecarboxylic acid | 86.8 g, 95% | C(C)N1C=C(C(C2=CC(=C(C=C12)C1=CC(=NC(=C1)C)C)F)=O)C(=O)O | C19H17FN2O3
